US07833632B2
(3-f) Synthesis of 5-[4-(9,10-diphenylanthracen-2-yl)phenyl]-1-methyl-2-phenyl-1H-benzimidazole
1.9 g (6.0 mmol) of 5-(4-chlorophenyl)-1,2-diphenyl-1H-benzimidazole, 2.5 g (6.6 mmol) of 9,10-diphenylanthracene-2-boronic acid, tris(dibenzylideneacetone)dipalladium (0) (0.14 g, 0.15 mmol), and cesium carbonate (4.7 g, 14 mmol) were suspended into 20 mL of anhydrous dioxane, a solution of tricyclohexylphosphine/toluene (25 mass %, 0.49 ml, 0.43 mmol) was added, and the whole was stirred at 80° C. for 10 hours. The reaction mixture was diluted with 200 mL of toluene and 100 mL of water, and was filtered through Celite 545 for removing Pd black. An organic layer was fractionated from the filtrate, washed with 50 mL of a saturated sodium chloride solution, and dried with anhydrous magnesium sulfate, and the solvent was distilled off, with the result that red oil was obtained. The oil was purified by means of silica gel column chromatography to obtain 3.2 g of a greenish white solid (87% yield). Mass spectral analysis confirmed that the solid was a target product. The solid had an m/e of 612 with respect to a molecular weight of 612.26.

reactant | 5-(4-chlorophenyl)-1,2-diphenyl-1H-benzimidazole | 6.0 mmol, 1.9 g | ClC1=CC=C(C=C1)C1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H17ClN2
reactant | 9,10-diphenylanthracene-2-boronic acid | 6.6 mmol, 2.5 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)B(O)O)C1=CC=CC=C1 | C26H19BO2
reactant | cesium carbonate | 14 mmol, 4.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.15 mmol, 0.14 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tricyclohexylphosphine toluene | 0.43 mmol, 0.49 ml | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1.C1(=CC=CC=C1)C
product | 5-[4-(9,10-diphenylanthracen-2-yl)phenyl]-1-methyl-2-phenyl-1H-benzimidazole | 3.2 g, 87% yield | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)C1=CC=C(C=C1)C1=CC2=C(N(C(=N2)C2=CC=CC=C2)C)C=C1)C1=CC=CC=C1 | C46H32N2
